US04220778
A solution of 4.2 parts of 8-phenyl-1,2,3,4-tetrahydroisoquinoline and 4 parts of triethylamine in 90 parts by volume of methylene chloride is cooled in an ice bath with stirring and 1.7 part of acetyl chloride in 10 parts by volume of methylene chloride is added slowly. The mixture is allowed to warm to ambient temperature and stirred for about 2 hours. The reaction solution is washed four times with 20 parts by volume portions of water and then dried over anhydrous magnesium sulfate. The solvent is removed under reduced pressure to afford 2-acetyl-8-phenyl-1,2,3,4-tetrahydroisoquinoline.

reactant | 8-phenyl-1,2,3,4-tetrahydroisoquinoline | C1(=CC=CC=C1)C=1C=CC=C2CCNCC12 | C15H15N
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-acetyl-8-phenyl-1,2,3,4-tetrahydroisoquinoline | C(C)(=O)N1CC2=C(C=CC=C2CC1)C1=CC=CC=C1 | C17H17NO
